US05140031
A. N-Cyano-N'-(3,4-dichlorophenyl)thiourea
The suspension of monosodium cyanamide (1.6 g, 24.5 mmol) in absolute ethanol (50 mL) was slowly treated with 3,4-dichlorophenylisothiocyanate (5.0 g, 24.5 mmol). The reaction was allowed to stir at room temperature for 1 hour and then heated at 75° C. for 4 hours. The reaction was cooled to room temperature and the colorless solid was filtered and washed with ethanol to give the title A compound (5.0 g) as a colorless solid.

reactant | monosodium cyanamide | 24.5 mmol, 1.6 g | N#CN.[Na]
reactant | 3,4-dichlorophenylisothiocyanate | 24.5 mmol, 5.0 g | ClC=1C=C(C=CC1Cl)N=C=S | C7H3Cl2NS
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | N-Cyano-N'-(3,4-dichlorophenyl)thiourea | 5.0 g | C(#N)NC(=S)NC1=CC(=C(C=C1)Cl)Cl | C8H5Cl2N3S
